data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5668,"CCC12CCCN(C(=O)CCl)C1[C:1]1([H:2])C3=C(C=CC=C3)[NH+:3]=[C:4]1CC2.O.O=C(C(F)(F)F)[O-:5]|(5, 2);((2, 1), 4);((4, 3), 3)"
train,pmechdb_split_0,0,4924,"CO[C:1](=[C:2]1CCCC1=O)[O-:3].C[C:4](=[CH2:5])[CH:6]=[O:7]|(3, 1);((1, 2), 5);((5, 4), 6);((6, 7), 7)"
train,pmechdb_split_0,0,2461,"C1=CC=[N:1]C=C1.CC[O+:2](S(C)(=O)([O-])Cl)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4640,"O=C1CCC2CCCCC2([O-:1])C1.[H:2][OH:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7826,"CSC(OC(=O)C(F)(F)F)C(OCC1=CC=CC=C1)C1OC(C)(C)OC1C(OCC1=CC=CC=C1)[CH:1]=[S+:2]C.O=C(O)C(F)(F)F.O=C([O-])C(F)(F)F.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4453,"O=S(=O)(O)[C:1]1([H:2])C2=C(C=CC=C2)C=C[C+:3]1Br.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,3260,"O=S(=O)(O)[C:1]1([H:2])C=C(C(F)(F)F)O[CH+:3]1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,3924,"C[N:1](C=O)[I:2].C[Si](C)(C)C=[C:3]=[CH2:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,6984,"CC(=O)[O:1][H:2].C[O:3][CH:4]=[C:5]1CCC2(CC1)OCCO2.O|(3, 4);((4, 5), 2);((2, 1), 1)"
train,pmechdb_split_0,0,7257,"CC[O+:1](C(C)NC)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3981,"CC1(C)CC[CH+:1][C:2]1(C)[CH3:3]|((2, 3), 1)"
train,pmechdb_split_0,0,8029,"CC1([CH:1]=[CH2:2])CCCC1.O=S(=O)(O)[O:3][H:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,5080,"COP(=O)(OC)[CH2:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5223,"C1=CC=C([CH2:1][Cl:2])C=C1.C[NH:3]N|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1154,"CC(=O)OC(C)=[O:1].O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9654,"CCOC(=O)CC[C:1](Cl)=[O:2].CC[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1458,"COC1=C[CH:1]=[CH:2]O1.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9494,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CO.COC(C1(C)CCC2=C(C)C(O)=C(C)C(C)=C2O1)=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7187,"CC[Si](CC)(CC)OC1(C2=CC3CCCC3C2)CCCC1CC(OC)[O:1]C.[Cl][Sn:2]([Cl])([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,4575,"C1=CC=CC=C1.C1=CC=[N+:1]([H:2])C=C1.CC(=O)CCC(C)([NH2+]C1=CC2=C(C=C1)C(I)=C(C1=CC=CC=C1)O2)[O-:3].CC1=CC=C(S(=O)(=O)[O-])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,66,"CC(Br)C[OH:1].C[CH:2]([H:3])[CH+:4]O|(1, 3);((3, 2), 4)"
train,pmechdb_split_0,0,2029,"C[OH:1].C[Si:2](C)(C)Cl|(1, 2)"
train,pmechdb_split_0,0,2124,"C=[O:1].F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,6230,"C[C:1]([O:2][H:3])=[O:4].[H:5][AlH3-:6]|((6, 5), 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,8460,"CC(=O)[CH:1](C)[Br:2].CC[NH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2509,"NC1=CC=CN=C1Cl.O.O=N[O-:1].[H:2][Br:3].[Na+]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1398,"C1CC[NH+:1]([H:2])C1.CC12CCC(N3CCCC3)=CC1([OH:3])CCCC2=O.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4067,"CCC(C(=O)C1=CC=CC=C1)C(=O)[O-:1].CCOC(=O)NN(C(=O)OCC)P(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)[O+:2](CC1=CC2=C(C=CC=C2)C=C1)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9594,"CC1[CH:1](CCCC[OH:2])[OH+:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1425,"COC1=CC=C(COC(=O)C(CC2=CC=CC=C2)NC(=O)C(C)[NH2:1])C=C1.O=C1CCC(=O)N1O[C:2](OCC1C2=C(C=CC=C2)C2=C1C=CC=C2)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,81,"CO.O=S(=O)(O)[O:1][H:2].OC(C1=C(Br)SC=C1)=[O:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8770,"CO[P:1](Cl)Cl.[H:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1635,"OC1([OH+:1][H:2])CCCO1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7195,"CCO.CCOC1CNC(COCC2=CC=CC=C2)C2=C3OCOC3=C(C)[C:1](=[O+:2]C)[C:3]21[H:4].[Cl-].[OH2:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3365,"C[C+:1](C)CC[C:2]1=[CH:3]C=CC=C1.O.O=S(=O)([O-])F|((2, 3), 1)"
train,pmechdb_split_0,0,509,"C1C[N:1]2CCN1CC2.CCOC(=O)C=CC(=O)OCC.O=C1N[N:2]([H:3])C(=O)N1C1=CC=CC=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5056,"CC(=O)OC(O)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7128,"O=S(=O)(O)[O:1][H:2].OC([OH2+])(C1CCCCC1)[NH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,4573,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCOC1(C2=CN=CC=C2)C[NH:1]1.CC[OH+:2][H:3].[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8675,"CC(C)=CC1C(C(=O)[O-:1])C1(C)C.CS(=O)(=O)[O-].O.[K+:2]|(1, 2)"
train,pmechdb_split_0,0,5586,"CC(=O)[CH2:1][Br:2].CC[NH:3]CC(C)=O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,3340,"CC(C)[O-].CC(C)[O][Al-:1]([O]CC1CCCCC1)([O]C(C)C)[OH+:2]C(C)C|((1, 2), 2)"
train,pmechdb_split_0,0,3076,"O=[C+:1]CCC[C:2]1=[CH:3]C=CC=C1|((2, 3), 1)"
train,pmechdb_split_0,0,7658,"C1[CH2:1][O:2]1.COC(=O)[CH:3]=[C:4](C)[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2165,"C[C:1](CCCCO)=[CH2:2].O=S(=O)(O)[O:3][H:4]|((1, 2), 4);((4, 3), 3)"
train,pmechdb_split_0,0,3108,"CC1=CC=C(S(=O)(=O)[O:1][CH:2]2CC[C:3]3([O-:4])C4COC(=O)CC4CC[C:5]23C)C=C1.[Na+]|(4, 3);((3, 5), 2);((2, 1), 1)"
train,pmechdb_split_0,0,7267,"CC(C)[C:1]1([H:2])C=C[C+:3](Br)[CH:4]=[CH:5]1.[F-:6]|(6, 2);((2, 1), 5);((5, 4), 3)"
